US09388199B2
((S)-1-Methoxymethyl-3,3-dimethyl-butyl)-carbamic acid tert-butyl ester
To a suspension of NaH (51.3 mg, 1.284 mmol) in THF (10 mL) cooled at 0° C. under Argon atmosphere was slowly added ((S)-1-hydroxymethyl-3,3-dimethyl-butyl)-carbamic acid tert-butyl ester (300 mg, 1.167 mmol). The mixture was stirred at 0° C. for 30 min and iodomethane (0.095 ml, 1.517 mmol) was added. The reaction mixture was allowed to reach RT and further stirred overnight. To complete the reaction, NaH (24 mg, 0.584 mmol) was again added at 0° C. followed 30 min later by the addition of iodomethane (36 μL, 0.584 mmol). The reaction mixture was stirred at RT for 6 h, then poured into a sat. aq. solution of NaHCO3 and extracted twice with CH2Cl2. The combined organic extracts were dried (Na2SO4), filtered and concentrated. The crude material was purified by flash chromatography on silica gel (c-hexane to c-hexane/EtOAc 8:2) to give the desired material as a white powder. 1H NMR (400 MHz, DMSO-d6) δ (ppm): 6.60 (m, 1H), 3.66 (m, 1H), 3.23 (s, 3H), 3.14 (m, 1H), 3.05 (m, 1H), 1.38 (s, 9H), 1.30 (m, 2H), 0.88 (s, 9H).

reactant | NaH | 1.284 mmol, 51.3 mg | [H-].[Na+]
reactant | ((S)-1-hydroxymethyl-3,3-dimethyl-butyl)-carbamic acid tert-butyl ester | 1.167 mmol, 300 mg | C(C)(C)(C)OC(N[C@@H](CC(C)(C)C)CO)=O | C12H25NO3
reactant | iodomethane | 1.517 mmol, 0.095 ml | IC | CH3I
reactant | NaH | 0.584 mmol, 24 mg | [H-].[Na+]
reactant | iodomethane | 0.584 mmol, 36 μL | IC | CH3I
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | ((S)-1-Methoxymethyl-3,3-dimethyl-butyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H](CC(C)(C)C)COC)=O | C13H27NO3
